US05455274
A stirred solution of 4-[4-(4-cyanophenoxy)butoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide (500 mg, 1.18 mmol) in 2 mL of water and 8 mL of ethanol is treated with sodium hydroxide (57.7 mg, 1.34 mmol) and hydroxylamine hydrochloride (90 mg, 1.29 mmol). After refluxing overnight, the reaction is partitioned between dichloromethane and brine. The organic phase is dried over magnesium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (15 g) with ethyl acetate as the eluent to afford 4- [4-[4-[amino(hydroxyimino)methyl]phenoxy]butoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide as colorless crystals, mp=63°-65° C.;

reactant | 4-[4-(4-cyanophenoxy)butoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | 1.18 mmol, 500 mg | C(#N)C1=CC=C(OCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C25H32N2O4
reactant | sodium hydroxide | 1.34 mmol, 57.7 mg | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 1.29 mmol, 90 mg | Cl.NO
solvent | water | 2 mL | O | H2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4- [4-[4-[amino(hydroxyimino)methyl]phenoxy]butoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | NC(C1=CC=C(OCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1)=NO | C25H35N3O5
